US04892961
To a mixture of N-benzylhydroxylamine prepared by the method as described in J. Am. Chem. Soc., 93, 2897 (1971) (368 mg; 3.0 mmol) and calcium chloride (3.30 mg; 3.0 mmol), anhydrous ether (30 ml) was added in argon stream, and (S)-(+)-3-(t-butyldimethylsilyloxy)-2-methylpropanal (600 mg; 3.0 mmol) was added dropwise thereto at 0° C. Stirring was continued at the same temperature for 1 hour and then at room temperature for 2 hours. The reaction mixture was filtered, and the filtrate was distilled under reduced pressure to remove the solvent. The oily residue was purified by silica gel column chromatography using a mixture of hexane and ethyl acetate (5:5-0:10) to give (R)-(-)-N-(3-t-butyldimethylsilyloxy-2-methylpropylidene)benzylamine-N-oxide (658 mg; 64%).

reactant | N-benzylhydroxylamine | C(C1=CC=CC=C1)NO | C7H9NO
reactant | calcium chloride | 3.0 mmol, 3.30 mg | [Cl-].[Ca+2].[Cl-]
reactant | (S)-(+)-3-(t-butyldimethylsilyloxy)-2-methylpropanal | 3.0 mmol, 600 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](C=O)C | C10H22O2Si
solvent | ether | 30 ml | CCOCC | C4H10O
product | (R)-(-)-N-(3-t-butyldimethylsilyloxy-2-methylpropylidene)benzylamine-N-oxide | 658 mg, 64% | [Si](C)(C)(C(C)(C)C)OC[C@@H](C=[N+](CC1=CC=CC=C1)[O-])C | C17H29NO2Si
